US06329528B1
D. 1-Methyl-3-(2-chloro-6-fluorophenyl)-5-(3,4,5-trichloro-2-thienyl)-1H-1,2,4-triazole
A mixture of 94.82 g (0.5 mole) of 2-chloro-6-fluorobenzthioamide, 50 mL (0.525 mole) of dimethyl sulfate, and 800 mL of 1,2-dichloroethane was heated at reflux temperature for 1 h. LC analysis indicated complete conversion to the thioimidate. The reaction solution was cooled to RT with ice-bath cooling, and the thioimidate salt precipitated from the solution. To the thick slurry was added 100 mL (1.25 mole) of pyridine. The salts instantly dissolved into solution, followed by immediate precipitation of pyridine salts. After further cooling to 10° C., 125 g (0.5 mole) of 3,4,5-trichloro-2-thiophenecarbonyl chloride dissolved in 200 mL of 1,2-dichloroethane was added in three portions. Temperature of the reaction mixture rose to 20° C. during each addition and was allowed to cool back to 10° C. before the next addition. The reaction mixture was allowed to stir at RT for 0.5 h. LC analysis indicated major acylated thioimidate and <2% area of starting thioimidate. To the slurry was added 1.0 L of water and the layers separated. LC internal standard analysis of the organics indicated a 94% in-pot yield of the acylated intermediate. The 1,2-dichloroethane solution was heated to 70° C., and a solution of 40 mL (0.75 mole) of methylhydrazine in 60 mL of water was added via a pump over 20 min. The temperature of the reaction mixture was maintained between 70° and 73° C. The solution was heated an additional 2 h, when GC analysis indicate no remaining acylated intermediate and a 38:1 ratio of desired product/off-isomer. The reaction mixture was cooled to RT, and 500 mL of octane followed by 1 L of 0.5 N LiOH was added. After stirring for 10 min, the layers were separated. The organic solution was then stirred with 750 mL of a 2% bleach solution for 0.25 h to remove remaining mercaptan compounds. The temperature of the mixture rose to 31° C. during this reaction. The layers were separated and upon concentration of the 1,2-dichloroethane on a roto-evaporator, a tan sandy precipitate formed. This solid was filtered and exposed to vacuum oven drying at 40° C. to give 144.8 g (73% wt) of the desired product as a tan crystalline powder. GC analysis indicated <0.2% area of the off-isomer, and LC internal standard analysis indicated a 98% purity, giving an overall isolated 72% yield of 1-methyl-3-(2-chloro-6-fluoro)phenyl-5-(3,4,5-trichloro-2-thienyl)-1H-1,2,4-triazole.

reactant | 2-chloro-6-fluorobenzthioamide | 0.5 mole, 94.82 g | ClC1=C(C(N)=S)C(=CC=C1)F | C7H5ClFNS
reactant | dimethyl sulfate | 0.525 mole, 50 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | pyridine | 1.25 mole, 100 mL | N1=CC=CC=C1 | C5H5N
reactant | 3,4,5-trichloro-2-thiophenecarbonyl chloride | 0.5 mole, 125 g | ClC1=C(SC(=C1Cl)Cl)C(=O)Cl | C5Cl4OS
reactant | methylhydrazine | 0.75 mole, 40 mL | CNN | CH6N2
reactant | octane | 500 mL | CCCCCCCC | C8H18
reactant | LiOH | 0.5 N, 1 L | [Li+].[OH-]
solvent | 1,2-dichloroethane | 200 mL | ClCCCl | C2H4Cl2
solvent | water | 60 mL | O | H2O
solvent | water | 1.0 L | O | H2O
solvent | 1,2-dichloroethane | 800 mL | ClCCCl | C2H4Cl2
product | 1-Methyl-3-(2-chloro-6-fluorophenyl)-5-(3,4,5-trichloro-2-thienyl)-1H-1,2,4-triazole | CN1N=C(N=C1C=1SC(=C(C1Cl)Cl)Cl)C1=C(C=CC=C1F)Cl | C13H6Cl4FN3S
